US04785101
Step 1. 3,4-Dihydro-3-methyl-2(1H)-quinazolinone
1,1'-Carbonyl-diimidazole (16.7 g) is added to a solution of 2-(methylaminomethyl)-aniline (11.2 g) in anhydrous THF (30 ml) under nitrogen. The reaction mixture is refluxed for about 24 hours, stirred for 48 hours at RT and filtered. The filtered precipitate is suspended in 2N HCl for about 40 minutes, filtered, and the filtered solid washed with water and air dried, affording the desired product, M.P. 202-206.5 C., used in the next step without further purification.

reactant | 1,1'-Carbonyl-diimidazole | 16.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(methylaminomethyl)-aniline | 11.2 g | CNCC1=C(N)C=CC=C1 | C8H12N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3,4-Dihydro-3-methyl-2(1H)-quinazolinone | CN1C(NC2=CC=CC=C2C1)=O | C9H10N2O
